US07632832B2
Step D. tert-Butyl 4-[4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate
Dess-Martin periodinane (53 mg, 0.126 mmol) was added to a solution of tert-butyl 4-[({[2-{[tert-butyl(diphenyl)silyl]oxy}-1-(hydroxymethyl)ethyl]amino}carbonyl)amino]piperidine-1-carboxylate (50 mg, 0.090 mmol) in dichloromethane (20 mL) at 0° C. After 4 h, the reaction was quenched with a 1:1 mixture of saturated sodium thiosulfate and sodium bicarbonate solution. The mixture was extracted with dichloromethane (2×) and the combined organic extracts were dried over sodium sulfate, filtered, concentrated. Purification by silica gel chromatography (100% dichloromethane→9% methanol {1% ammonium hydroxide)/dichloromethane} gave the title compound (25 mg). MS 536.3 (M+1)

reactant | Dess-Martin periodinane | 0.126 mmol, 53 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | tert-butyl 4-[({[2-{[tert-butyl(diphenyl)silyl]oxy}-1-(hydroxymethyl)ethyl]amino}carbonyl)amino]piperidine-1-carboxylate | 0.090 mmol, 50 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CO)NC(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C30H45N3O5Si
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-[4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl]piperidine-1-carboxylate | 25 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1NC(N(C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C30H41N3O4Si
